US04670434
A two-fold stoichiometric excess of 3% hydrogen chloride in methanol is added to a solution of 1.0 g. of N-cyclohexyl-N-methyl-4-(2-oxo-3-methylene-1,2,3,5-tetrahydroimidazo-[2,1-b]quinazolin-7-yl)oxybutanamide in 20 ml methanol. Diethyl ether is added until precipitation is complete. The product is filtered, washed with ether, air dried and recrystallized to give N-cyclohexyl-N-methyl-4-(2-oxo-3-methylene-1,2,3,5-tetrahydroimidazo[2,1-b]-quinazolin-7-yl)oxybutanamide hydrochloride.

reactant | hydrogen chloride | Cl | ClH
reactant | N-cyclohexyl-N-methyl-4-(2-oxo-3-methylene-1,2,3,5-tetrahydroimidazo-[2,1-b]quinazolin-7-yl)oxybutanamide | C1(CCCCC1)N(C(CCCOC=1C=C2CN3C(=NC2=CC1)NC(C3=C)=O)=O)C | C22H28N4O3
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | N-cyclohexyl-N-methyl-4-(2-oxo-3-methylene-1,2,3,5-tetrahydroimidazo[2,1-b]-quinazolin-7-yl)oxybutanamide hydrochloride | Cl.C1(CCCCC1)N(C(CCCOC=1C=C2CN3C(=NC2=CC1)NC(C3=C)=O)=O)C | InChI=1S/C22H28N4O3.ClH/c1-15-21(28)24-22-23-19-11-10-18(13-16(19)14-26(15)22)29-12-6-9-20(27)25(2)17-7-4-3-5-8-17;/h10-11,13,17H,1,3-9,12,14H2,2H3,(H,23,24,28);1H
